US07745414B2
1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(trifluoromethylsulfonyloxy)-benzyl]-benzene
10 mg 4-dimethylaminopyridine are added to a solution of 0.38 g 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene, 0.21 ml triethylamine and 0.39 g N,N-bis-(trifluoromethanesulfonyl)-aniline in 10 ml dry dichloromethane. The solution is stirred for 4 h at ambient temperature and then combined with brine. The resulting mixture is extracted with ethyl acetate, the organic extracts are dried over sodium sulfate, and the solvent is removed. The residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0->4:1).

reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene | 0.38 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)O | C19H21ClO7
reactant | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-bis-(trifluoromethanesulfonyl)-aniline | 0.39 g | FC(S(=O)(=O)N(C1=CC=CC=C1)S(=O)(=O)C(F)(F)F)(F)F | C8H5F6NO4S2
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(trifluoromethylsulfonyloxy)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C20H20ClF3O9S
